US07625925B2
N3-Cyclopropylmethyl-N3-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]nicotinamide
Triethylamine (0.038 mL) and chloronicotinic acid hydrochloride (20 mg) were added to a solution of N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine (33 mg) in dichloromethane (0.8 mL) while cooling on ice, and the mixture was stirred at the same temperature for 1 hour. Saturated aqueous sodium hydrogencarbonate was added while cooling on ice, extraction was performed with ethyl acetate, and the extract washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=3:2) to obtain the title compound (36 mg) as white crystals.

reactant | Triethylamine | 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | chloronicotinic acid hydrochloride | 20 mg | Cl.ClC1=C(C(=O)O)C=CC=N1
reactant | N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 33 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C21H25N3OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 0.8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N3-Cyclopropylmethyl-N3-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]nicotinamide | 36 mg | C1(CC1)CN(C(C1=CN=CC=C1)=O)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C27H28N4O2S
